* Bridge rectifier capacitor selection sweep - oracle netlist
.param Cval=470u
V1 in1 in2 SIN(0 12 60)
D1 in1 p   D1N4007
D2 in2 p   D1N4007
D3 0   in1 D1N4007
D4 0   in2 D1N4007
C1 p 0 {Cval} IC=0
R1 p 0 100
.model D1N4007 D(IS=14.11n N=1.984 RS=33.89m BV=1000 IBV=5u CJO=25.89p VJ=0.7558 M=0.5096)
.tran 0 300m 0 50u uic
.step param Cval list 220u 330u 470u 680u
.meas TRAN vout_avg AVG V(p) FROM 250m TO 300m
.meas TRAN vrip_pp  PP  V(p) FROM 250m TO 300m
.end
