* Single-op-amp difference amplifier — gain = R2/R1 = 10.
.lib LTC.lib

V_pos vp  0  SINE(0 100m 1k)
V_neg vn  0  SINE(0  50m 1k)
V_vcc vcc 0  15
V_vee vee 0  -15

R1a vp ninnode 1k
R1b vn invnode 1k
R2a ninnode 0  10k
R2b invnode out 10k

XU1 ninnode invnode vcc vee out LT1001    ; vin+=ninnode, vin-=invnode

.tran 5m
.meas tran vout_pk   MAX V(out) FROM 2m TO 5m
.meas tran gain_diff PARAM vout_pk/0.05
.end
