* Half-wave rectifier with cap smoothing.
V1 in 0 SIN(0 12 60)
D1 in p 1N4007
C  p  0 470u IC=0
R  p  0 100

.model 1N4007 D(Is=14n Rs=34m N=2)

.tran 0 500m 0 50u UIC
.meas tran vout_avg AVG V(p) FROM 450m TO 500m
.meas tran vrip_pp  PP  V(p) FROM 450m TO 500m
.end
