* Second-order LC low-pass: V1 → R_s → L → out → C → 0.
* ω0 = 1/√(LC) ≈ 10⁴ rad/s ≈ 1592 Hz.
V1  in  0   AC 1
R_s in  a   50
L1  a   out 10m
C1  out 0   1u

.ac dec 100 10 100k
.meas AC gain_dc FIND mag(V(out)) AT 10
.meas AC f_3db   WHEN mag(V(out))=gain_dc*0.7071 CROSS=1
.end
