* Non-inverting op-amp — gain = 1 + R_fb/R_in = 10.
.lib LTC.lib

V_in  in  0  SINE(0 100m 1k)
V_pos vcc 0  15
V_neg vee 0  -15

XU1 in invnode vcc vee out LT1001    ; vin+=in, vin-=invnode

R_in        0       invnode  1k
R_feedback  invnode out      9k

.tran 5m
.meas tran vout_pk MAX V(out) FROM 2m TO 5m
.meas tran gain    PARAM vout_pk/0.1
.end
