* Op-amp Miller integrator — square-wave in → triangle out.
.lib LTC.lib

V_in v_in 0   PULSE(-1 1 0 1u 1u 0.5m 1m)
V_pos vcc 0   15
V_neg vee 0   -15

R   v_in    invnode 10k
C   invnode out     100n
R_f invnode out     1Meg     ; DC stability

XU1 0 invnode vcc vee out LT1001

.tran 0 10m 0 5u UIC
.meas tran vout_pp  PP  V(out) FROM 7m TO 10m
.meas tran vout_avg AVG V(out) FROM 7m TO 10m
.end
