* Inverting summing amplifier — V_out = -V1·R_f/R1 - V2·R_f/R2.
.lib LTC.lib

V1   v1  0   SINE(0 200m 1k)
V2   v2  0   SINE(0 100m 2k)
V_pos vcc 0  15
V_neg vee 0  -15

R1 v1      invnode 10k
R2 v2      invnode 5k
R_f invnode out    10k

XU1 0 invnode vcc vee out LT1001    ; vin+=0, vin-=invnode

.tran 5m
.meas tran vout_pk  MAX abs(V(out)) FROM 2m TO 5m
.meas tran vout_avg AVG V(out) FROM 2m TO 5m
.end
