* Loaded RC low-pass capacitor selection sweep - oracle netlist
.param Cval=1u
V1 in  0   AC 1
R1 in  out 1k
Rload out 0 10k
C1 out 0   {Cval}

.ac dec 80 1 100k
.step param Cval list 220n 470n 1u 2.2u
.meas AC gain_10hz FIND mag(V(out)) AT 10
.meas AC atten_1khz FIND mag(V(out)) AT 1k
.meas AC f_3db     WHEN mag(V(out))=gain_10hz*0.7071 CROSS=1
.end
