* First-order RC step response: τ = RC = 100 µs.
* PULSE rises from 0 to 1 V at t=0 with 1 ns edges; pulse width 1 s
* (effectively a step for a 2 ms run).

V1 in  0   PULSE(0 1 0 1n 1n 1 2)
R1 in  out 1k
C1 out 0   100n IC=0

.tran 0 2m 0 100n
.ic V(out)=0

.meas tran vout_settled AVG V(out) FROM 1.8m TO 2m
.meas tran t10  WHEN V(out)=0.1 RISE=1
.meas tran t90  WHEN V(out)=0.9 RISE=1
.meas tran t_rise PARAM t90-t10
.end
