* Loaded series LC notch capacitor selection sweep - oracle netlist
.param Ctrap=110n
V1 in  0   AC 1
R_s in  out 1k
Rload out 0 10k
L1 out a   10m Rser=0.35
C1 a   0   {Ctrap}

.ac dec 100 100 100k
.step param Ctrap list 75n 91n 110n 130n
.meas AC dc_gain     FIND mag(V(out)) AT 100
.meas AC notch_depth FIND mag(V(out)) AT 5033
.end
