* Underdamped series RLC step response — ω0 ≈ 31.6 krad/s, ζ ≈ 0.032.
V1 in  0   PULSE(0 1 0 1n 1n 1 2)
R1 in  a   20
L1 a   out 10m
C1 out 0   100n IC=0

.tran 0 3m 0 1u UIC
.meas tran vmax MAX V(out)
.meas tran vss  AVG V(out) FROM 2.5m TO 3m
.end
