* Sallen-Key 2nd-order active low-pass — unity-gain config.
* f0 ≈ 1/(2π·R·C) for R1=R2, C1=C2 → ≈1592 Hz.
.lib LTC.lib

V1    in  0    AC 1
V_pos vcc 0    15
V_neg vee 0    -15

R1 in   a    10k
R2 a    b    10k
C1 a    out  10n     ; positive-feedback path
C2 b    0    10n

XU1 b out vcc vee out LT1001    ; vin+=b, vin-=out (unity-gain follower)

.ac dec 100 10 100k
.meas AC gain_dc FIND mag(V(out)) AT 10
.meas AC f_3db   WHEN mag(V(out))=gain_dc*0.7071 CROSS=1
.end
