* Inverting op-amp — gain ≈ -R_fb / R_in = -10
.lib LTC.lib

.param R_in       = 1k
.param R_feedback = 10k

V_in  in 0 SINE(0 100m 1k)
V_pos vcc 0 15
V_neg vee 0 -15

XU1 0 invnode vcc vee out LT1001         ; pins: vin+ vin- V+ V- out
R_in        in       invnode  {R_in}
R_feedback  invnode  out      {R_feedback}

.tran 5m
.meas tran vout_pk MAX V(out) FROM 2m TO 5m
.meas tran gain    PARAM vout_pk/0.1
.end
