* Parallel LC tank, AC current source. f0 = 1/(2π√LC) ≈ 5033 Hz.
I1 0  tank AC 1
L1 tank 0  10m
C1 tank 0  100n
R_par tank 0 10k

.ac dec 100 100 100k
.meas AC v_peak      MAX mag(V(tank))
.meas AC f_resonance WHEN mag(V(tank))=v_peak CROSS=1
.end
