* Voltage follower (unity-gain buffer) with LT1001.
.lib LTC.lib

V_in  in  0  SINE(0 500m 1k)
V_pos vcc 0  15
V_neg vee 0  -15

XU1 in out vcc vee out LT1001    ; vin+=in, vin-=out (unity-gain)

.tran 5m
.meas tran vout_pk MAX V(out) FROM 2m TO 5m
.meas tran gain    PARAM vout_pk/0.5
.end
