* First-order RC high-pass — f_3dB = 1/(2πRC) = 159.15 Hz.
V1 in  0   AC 1
C1 in  out 1u
R1 out 0   1k

.ac dec 50 1 100k
.meas AC gain_hf FIND mag(V(out)) AT 100k
.meas AC f_3db   WHEN mag(V(out))=gain_hf*0.7071 CROSS=1
.end
