* First-order RL low-pass — f_3dB = R/(2πL) ≈ 1592 Hz.
V1 in  0   AC 1
L1 in  out 10m
R1 out 0   100

.ac dec 50 10 100k
.meas AC gain_dc FIND mag(V(out)) AT 10
.meas AC f_3db   WHEN mag(V(out))=gain_dc*0.7071 CROSS=1
.end
