* Series RLC band-pass: V1 → L1 → C1 → R1 → 0; output across R1.
* AC sweep 100 Hz to 100 kHz, 50 pts/decade. f0 = 1/(2π√LC) ≈ 5.03 kHz.

V1  in   0    AC 1
L1  in   a    10m
C1  a    out  100n
R1  out  0    50

.ac dec 50 100 100k
.meas AC peak_gain MAX mag(V(out))
.meas AC peak_freq WHEN mag(V(out))=peak_gain
.end
