* Overdamped series RLC step response — ζ ≈ 3.16.
V1 in  0   PULSE(0 1 0 1n 1n 1 2)
R1 in  a   2k
L1 a   out 10m
C1 out 0   100n

.tran 0 5m 0 1u
.meas tran vss AVG V(out) FROM 4m TO 5m
.meas tran t90 WHEN V(out)=0.9 RISE=1
.end
